US05215982
To a solution of 1H-imidazo[1,2-b]pyrazole (2 g) in tetrahydrofuran (20 ml) were added N,N-dimethylcarbamoyl chloride (3.8 ml) and triethylamine (6.2 ml) at 20° C. under stirring. After stirring, the reaction mixture was poured into a mixture of ethyl acetate (30 ml) and cold water (50 ml). The ethyl acetate layer was separated, washed with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give 1-(N,N-dimethylcarbamoyl)-1H-imidazo[1,2-b]pyrazole (3.0 g).

reactant | 1H-imidazo[1,2-b]pyrazole | 2 g | N1C=CN2N=CC=C21 | C5H5N3
reactant | N,N-dimethylcarbamoyl chloride | 3.8 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 1-(N,N-dimethylcarbamoyl)-1H-imidazo[1,2-b]pyrazole | 3.0 g | CN(C(=O)N1C=CN2N=CC=C21)C | C8H10N4O
